US05061706
A solution of 0.4 g (1.48 mmol) 7-cyano-1-hydroxy-6-trifluoromethylquinoxaline-2,3(1H,4H)-dione in 50 ml dry tetrahydrofuran was added 0.3 ml (2.18 mmol) dry triethylamine and 0.15 ml (2.10 mmol) acetyl chloride. The mixture was refluxed for 3 h, and then evaporated in vacuo. The residue was stirred with water to give 0.42 g (92%) of 1-acetoxy-7-cyano-6-trifluoromethylquinoxaline-2,3(1H,4H)-dione. M.p. 230° C. 1H-NMR (DMSO-d6): 8.16 (1H, s), 7.53 (1H, s), 2.37 (3H, s).

reactant | 7-cyano-1-hydroxy-6-trifluoromethylquinoxaline-2,3(1H,4H)-dione | 1.48 mmol, 0.4 g | C(#N)C1=C(C=C2NC(C(N(C2=C1)O)=O)=O)C(F)(F)F | C10H4F3N3O3
reactant | triethylamine | 2.18 mmol, 0.3 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 2.10 mmol, 0.15 ml | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-acetoxy-7-cyano-6-trifluoromethylquinoxaline-2,3(1H,4H)-dione | 0.42 g, 92% | C(C)(=O)ON1C(C(NC2=CC(=C(C=C12)C#N)C(F)(F)F)=O)=O | C12H6F3N3O4
